US06051712
In an analogous manner to that described in Example 22 (l), from tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-[6-(2-morpholin-4-yl-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate by cleavage of the BOC protecting group with hydrogen chloride in methanol there was obtained 4-[2-[6-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-morpholine hydrochloride (1:2) in the form of colourless crystals; M: 611 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-[6-(2-morpholin-4-yl-ethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=C(C=C2C=C1)OCCN1CCOCC1 | C43H54N2O7
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-[2-[6-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-morpholine hydrochloride | Cl.C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1)OCC=1C=C2C=CC(=CC2=CC1)OCCN1CCOCC1 | InChI=1S/C38H46N2O5.ClH/c1-2-5-30(6-3-1)28-42-20-4-21-43-35-12-9-32(10-13-35)37-15-16-39-27-38(37)45-29-31-7-8-34-26-36(14-11-33(34)25-31)44-24-19-40-17-22-41-23-18-40;/h1-3,5-14,25-26,37-39H,4,15-24,27-29H2;1H
